US07354920B2
b) 2-(2,6-Dichloro-phenyl)-1-morpholin-2-yl-1-phenyl-ethanol hydrochloride
To a solution of 1-(4-Benzyl-morpholin-2-yl)-2-(2,6-dichloro-phenyl)-1-phenyl-ethanol (450 mg, 1 equiv.) in ethyl acetate (15 mL) at room temperature under nitrogen atmosphere was added ammonium formate (1.69 g, 25 equiv.) followed by addition of palladium on charcoal (10%, 45 mg.). The reaction mixture was heated to reflux for 3 hour, cooled to room temperature and then filtered through Celite. All volatiles were evaporated under vacuum, and the resulting solid was purified via preparative HPLC. The isolated white solid was taken up in ethanol. Hydrogen chloride was added (large excess of 2M solution in diethyl ether) and the mixture was stirred until it became a clear solution. Then all the volatiles were evaporated “in vacuo”, to give 60 mg of the title compound as white solid. 1H NMR (300M1, CD3OD D4) δ: 2.52-2.61 (d, 1H), 2.79-2.96 (t, 1H), 2.98-3.13 (t, 1H), 3.15-3.19 (s, 1H), 3.56-3.71 (q, 2H), 3.88-4.02 (t, 1H), 4.10-4.21 (d, 1H), 4.29-4.39 (d, 1H), 6.97-7.08 (m, 1H), 7.10-7.21 (m, 7H). LCMS (12 minutes method) [M+H]+=352 @ Rt 4.63 min. single major peak.

reactant | 1-(4-Benzyl-morpholin-2-yl)-2-(2,6-dichloro-phenyl)-1-phenyl-ethanol | 450 mg, 1 equiv. | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1Cl)Cl)(O)C1=CC=CC=C1 | C25H25Cl2NO2
reactant | ammonium formate | 1.69 g, 25 equiv. | C(=O)[O-].[NH4+]
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 45 mg | [Pd] | Pd
product | 2-(2,6-Dichloro-phenyl)-1-morpholin-2-yl-1-phenyl-ethanol hydrochloride | 60 mg | Cl.ClC1=C(C(=CC=C1)Cl)CC(O)(C1=CC=CC=C1)C1CNCCO1 | InChI=1S/C18H19Cl2NO2.ClH/c19-15-7-4-8-16(20)14(15)11-18(22,13-5-2-1-3-6-13)17-12-21-9-10-23-17;/h1-8,17,21-22H,9-12H2;1H
